### PR TITLE
[Merged by Bors] - feat(RingTheory/PowerSeries): characterize natural bounds on order

### PR DESCRIPTION
**Pull request by loefflerd**
`Iff` version of `nat_le_order`, characterizing when the order of a power series is at least a natural number in terms of vanishing of its lower coefficients.

---
Reviewer suggestion from #43644.

### CODE REVIEW

File: Mathlib/RingTheory/PowerSeries/Order.lean [hunk 1]
```diff
@@ -105,6 +105,12 @@ theorem nat_le_order (φ : R⟦X⟧) (n : ℕ) (h : ∀ i < n, coeff i φ = 0) :
   · simp
   · simpa [Nat.le_find_iff]
 
+/-- The order of a formal power series is at least `n` if and only if its coefficients below `n`
+vanish. -/
+theorem nat_le_order_iff (φ : R⟦X⟧) (n : ℕ) :
```
Comment (JX-Mo) [inline Mathlib/RingTheory/PowerSeries/Order.lean]: I think implicit argument for iff lemmas is better

Comment (loefflerd) [inline Mathlib/RingTheory/PowerSeries/Order.lean]:
```suggestion
theorem nat_le_order_iff {φ : R⟦X⟧} {n : ℕ} :
```

File: Mathlib/RingTheory/PowerSeries/Order.lean
Comment (JX-Mo) [inline Mathlib/RingTheory/PowerSeries/Order.lean:123]: Should we have an N_\infty version? `le_order` shows up 9 times and `nat_le_order` shows up 3 times in this file.
```suggestion

/-- The order of a formal power series is at least `n` if and only if its coefficients below `n`
vanish. -/
theorem le_order_iff {φ : R⟦X⟧} {n : ℕ∞} :
    n ≤ order φ ↔ ∀ i : ℕ, i < n → coeff i φ = 0 := by
  cases n with
  | top => simp
  | coe n => simpa using nat_le_order_iff

```

**Review by JX-Mo — APPROVED** [review]

**Comment by loefflerd** [comment]
Your `le_order_iff` idea is nice, I found some good golfs in the file using it. Thanks!

**Review by j-loreaux — COMMENTED** [review]
oooh, very nice, thanks!

bors merge
